US07312241B2
3,5-Dimethoxybenzoyl chloride (10.28 g, 51.24 mmol), 1,2-dimethoxybenzene (6.53 ml, 51.24 mmol), and aluminum chloride (7.52 g, 56.37 mmol) were treated in the same manner as described above for the synthesis of 3-(3,4-dimethoxy-phenyl)-3-(4-methoxy-phenyl)-acrylonitrile. The crude was purified via flash column chromatography (10% EtOAc in hexane gradient to 50% EtOAc in hexane in 50 min.) to give (3,4-dimethoxy-phenyl)-(3,5-dimethoxy-phenyl)-methanone as a light yellow solid (11.14 g, 72%); 1HNMR (DMSO-d6) δ 7.38-7.33 (m, 2H, Ar), 7.09 (d, J=8 Hz, 1H, Ar), 6.77 (s, 3H, OCH3), 3.86 (s, 3H, OCH3), 3.82 (s, 3H, OCH3), 3.79 (s, 6H, 2OCH3). The product was carried over to the next step.

reactant | 3,5-Dimethoxybenzoyl chloride | 51.24 mmol, 10.28 g | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
reactant | 1,2-dimethoxybenzene | 51.24 mmol, 6.53 ml | COC1=C(C=CC=C1)OC | C8H10O2
reactant | aluminum chloride | 56.37 mmol, 7.52 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-(3,4-dimethoxy-phenyl)-3-(4-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=CC1OC)C(=CC#N)C1=CC=C(C=C1)OC | C18H17NO3
product | (3,4-dimethoxy-phenyl)-(3,5-dimethoxy-phenyl)-methanone | 11.14 g, 72% | COC=1C=C(C=CC1OC)C(=O)C1=CC(=CC(=C1)OC)OC | C17H18O5
